US09126945B2
4-Chloro-3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylic acid
517 mg (1.76 mmol) of ethyl 4-chloro-3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate (purity 89%) are dissolved in 10 ml of ethanol p.a. 3.5 ml (3.5 mmol) of 1 N aqueous sodium hydroxide solution are then added to the solution, and the mixture is stirred at room temperature for 16 h. The reaction mixture is acidified by addition of 1 N hydrochloric acid. The aqueous phase is extracted twice with ethyl acetate. The combined organic phases are washed with saturated sodium chloride solution, dried over sodium sulphate and filtered. The solvent is removed under reduced pressure on a rotary evaporator. This gives 422 mg (99%) of 4-chloro-3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylic acid.

reactant | ethyl 4-chloro-3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylate | 1.76 mmol, 517 mg | ClC=1C(=NN(C1C(=O)OCC)C)C1(CC1)Cl | C10H12Cl2N2O2
reactant | sodium hydroxide | 3.5 mmol, 1 N, 3.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 4-Chloro-3-(1-chlorocyclopropyl)-1-methyl-1H-pyrazole-5-carboxylic acid | ClC=1C(=NN(C1C(=O)O)C)C1(CC1)Cl | C8H8Cl2N2O2
